US06323235B1
Methyl (1-(2-(N-(diphenylmethyl)amino)ethyl)indole-4-yloxy)acetate
Under argon atmosphere, methyl (1-(2-(azido)ethyl)indole-4-yloxy)acetate (432 mg) was dissolved in a mixed solvent of ethanol (10 ml) and THF (1 ml), and the obtained solution was stirred at room temperature. To this solution, 5% Pd/C (68 mg) was added and the atmosphere in the reaction vessel was replaced with hydrogen. After confirming vanishment of the materials, the atmosphere in the reaction vessel was replaced with argon. Solids were removed by filtration through Celite, and the solvent was removed under reduced pressure to obtain a crude product (362 mg). Under argon atmosphere, the crude product (40 mg) was dissolved in acetonitrile and the obtained solution was stirred at room temperature. To this solution, potassium carbonate (24 mg) and diphenylmethyl bromide (48 mg) were added and the resulting mixture was stirred at room temperature. After confirming vanishment of the materials, phosphate buffer (pH 7, 2 ml) and water (5 ml) were added to the reaction mixture, and the resultant was extracted three times with ethyl acetate (10 ml). The organic layers were combined and washed with saturated brine, followed by drying over sodium sulfate. After removing the sodium sulfate by filtration, the solvent was removed under reduced pressure and the residue was purified by column chromatography (solvent: hexane/ethyl acetate=3/1) using silica gel to obtain the desired compound (23 mg, yield: 32%).

reactant | methyl (1-(2-(azido)ethyl)indole-4-yloxy)acetate | 432 mg | N(=[N+]=[N-])CCN1C=CC2=C(C=CC=C12)OCC(=O)OC | C13H14N4O3
reactant | hydrogen | [H][H] | H2
reactant | potassium carbonate | 24 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diphenylmethyl bromide | 48 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | phosphate | 2 ml, pH 7 | P(=O)([O-])([O-])[O-]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd/C | 68 mg | [Pd] | Pd
solvent | water | 5 ml | O | H2O
product | Methyl (1-(2-(N-(diphenylmethyl)amino)ethyl)indole-4-yloxy)acetate | 23 mg, yield: 32% | C1(=CC=CC=C1)C(NCCN1C=CC2=C(C=CC=C12)OCC(=O)OC)C1=CC=CC=C1 | C26H26N2O3
